* pfal_cell.sp -- Renesis --spice-gen deck
* circuit: and2   technology: pfal   gates: 1
* STRUCTURE is exact: one instance per pass device, mirroring the
* Verilog writer and the energy model's device count.  ENERGY from
* this deck is NOT the tool's figure until you replace the stub
* models below with characterized PDK models.
*
* ---------------------------------------------------------------- STUB
* DEVICE MODELS ARE STUBS.  Level-1 MOSFETs sized so that R_on and the
* per-device capacitance are of the family's order; REPLACE with your
* characterized PDK models before drawing any energy conclusion from
* this deck.  The tool's own energy figures do not come from SPICE.
.model NSTUB NMOS (LEVEL=1 VTO=0.3  KP=200u LAMBDA=0.01 CGSO=0.5n CGDO=0.5n)
.model PSTUB PMOS (LEVEL=1 VTO=-0.3 KP=100u LAMBDA=0.01 CGSO=0.5n CGDO=0.5n)
* --------------------------------------------------------------------

* nMOS-only pass device (PAL): conducts a<->b when t=1
.subckt RNS_NP a b t f
MN a t b 0 NSTUB W=2u L=0.18u
.ends

* PFAL latch: cross-coupled inverter pair between the rails and the clock
.subckt RNS_XC phi t f
MP1 t f phi phi PSTUB W=4u L=0.18u
MN1 t f 0 0    NSTUB W=2u L=0.18u
MP2 f t phi phi PSTUB W=4u L=0.18u
MN2 f t 0 0    NSTUB W=2u L=0.18u
.ends

VPHI0 PHI0 0 PWL(0n 0 10n 1.1 20n 1.1 30n 0 40n 0 50n 1.1 60n 1.1 70n 0)
VPHI1 PHI1 0 PWL(0n 0 10n 0 20n 1.1 30n 1.1 40n 0 50n 0 60n 1.1 70n 1.1 80n 0)
VPHI2 PHI2 0 PWL(0n 0 20n 0 30n 1.1 40n 1.1 50n 0 60n 0 70n 1.1 80n 1.1 90n 0)
VPHI3 PHI3 0 PWL(0n 0 30n 0 40n 1.1 50n 1.1 60n 0 70n 0 80n 1.1 90n 1.1 100n 0)
VDDB VDDB 0 1.1   ; pMOS bulk
Va_T a_T 0 0
Va_F a_F 0 1.1
Vb_T b_T 0 1.1
Vb_F b_F 0 0

* ---- node y (phase 0)
X1 PHI0 n_y_p_s_1 a_T a_F RNS_NP
X2 n_y_p_s_1 y_T b_T b_F RNS_NP
X3 PHI0 y_F a_F a_T RNS_NP
X4 PHI0 y_F b_F b_T RNS_NP
XXC_y PHI0 y_T y_F RNS_XC

RB1 y_T 0 1G
RB2 y_F 0 1G

* primary outputs: y_T/y_F
.tran 0.05n 320n
.control
run
set wr_vecnames
wrdata pfal_cell_po.txt v(y_T) v(y_F)
quit
.endc
.end
